US07291619B2
1-Boc-4-(2-dimethylaminomethyl-phenyl)-piperazine
1-Boc-4-(2-aminomethyl-phenyl)-piperazine (2.0 g, 6.86 mmol) was dissolved in CH3CN (15 mL) and cooled to about 0° C. Aqueous formaldehyde (37% wt. in H2O) (7.56 mL) was added to the cold solution followed by the addition of sodium cyanoborohydride (2.15 g, 34.32 mmol). The reaction mixture was allowed to stir at 0° C. for about 5 minutes and then allowed to naturally warm to room temperature. The mixture was then concentrated to dryness. The resulting residue was taken up in EtOAc (100 mL) and washed with saturated NaHCO3 solution (100 mL) and brine (100 mL). The organic phase was concentrated to dryness to afford about 2.2 g of crude material. MS (ESI+) 320.2 [M+1]

reactant | 1-Boc-4-(2-aminomethyl-phenyl)-piperazine | 6.86 mmol, 2.0 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN | C16H25N3O2
reactant | formaldehyde | 7.56 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 34.32 mmol, 2.15 g | C(#N)[BH3-].[Na+]
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | 1-Boc-4-(2-dimethylaminomethyl-phenyl)-piperazine | about 2.2 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN(C)C | C18H29N3O2
